US04394515
8-Nitrodibenzo[b,f]thiepin-3-carboxylic Acid 5-oxide
400 Mg. 8-nitrodibenzo[b,f]thiepin-3-carboxylic acid is stirred for 24 hours in 200 cc. acetic acid and 1.5 cc. 30% hydrogen peroxide. The product is filtered, washed with water and dried to yield 315 mg. (74%) of pure product, m.p. 278°-281° C.

reactant | 8-nitrodibenzo[b,f]thiepin-3-carboxylic acid | [N+](=O)([O-])C=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C(=O)O)C1 | C15H9NO4S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Nitrodibenzo[b,f]thiepin-3-carboxylic Acid 5-oxide | [N+](=O)([O-])C=1C=CC2=C(C=CC3=C(S2=O)C=C(C=C3)C(=O)O)C1 | C15H9NO5S
